US08895545B2
c) Preparation of 3-bromo-6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocycloheptene
A solution of bromine (960 mg, 6 mmol) in CH2Cl2 (50 mL) was added drop wise at 0° C. to a CH2Cl2 (30 mL) suspension of 6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocycloheptene (750 mg, 5 mmol) and solid K2CO3 (1 g). The mixture was stirred for 30 min at 20° C., then the excess bromine was quenched with a saturated solution of aqueous NaHSO3. The basic aqueous phase was separated, extracted with CH2Cl2, the combined organic layers were dried and evaporated to afford the title-compound (1.10 g, 96%). 1H NMR (300 Hz, DMSO-d6, δ): 7.78 (d, J=1.8 Hz, 1H), 7.30 (d, J=1.9 Hz, 1H), 6.35 (s, br, 1H), 4.10 (t, J=5.7 Hz, 2H), 3.24 (m, 2H), 1.92 (m, 2H), MS (ESI): m/e 229 and 231 (M+H)+.

reactant | bromine | 6 mmol, 960 mg | BrBr | Br2
reactant | 6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocycloheptene | 5 mmol, 750 mg | N1=CC=CC2=C1NCCCO2 | C8H10N2O
reactant | K2CO3 | 1 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-6,7,8,9-tetrahydro-5-oxa-1,9-diaza-benzocycloheptene | 1.10 g, 96% | BrC1=CC2=C(NCCCO2)N=C1 | C8H9BrN2O
